US08614239B2
Preparation of 2-Hydroxymethyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide (2D)
1M BCl3 solution in DCM (0.477 mL, 0.4777 mmol) was added dropwise to a solution of 2-benzyloxymethyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide (0.150 g, 0.2388 mmol) in dry DCM (5 mL) at −75° C. and stirred for 1 hour at −75° C. The reaction mass was allowed to attain 20-35° C. and continued the stirring for 2 hours at same temperature. The reaction was monitored by TLC (50% ethyl acetate in hexane). The reaction mass was quenched with saturated sodium bicarbonate solution and then diluted with DCM (50 mL). The organic layer was separated, washed with water, brine solution and concentrated under reduced pressure to afford the crude product. Purification by column chromatography on silica gel (50% ethyl acetate in hexane) afforded 0.070 g of the product (55% yield). 1H NMR (DMSO-d6, 300 MHz): δ 9.38 (s, 1H), 8.19 (d, 1H), 7.77 (bs. 1H), 7.52 (dd, 1H), 7.33 (d, 1H), 7.22 (d, 1H), 6.42-6.44 (m, 1H), 4.53 (t, 1H), 3.21-3.31 (m, 1H), 3.02-3.10 (m, 1H), 1.41-1.46 (m, 1H), 1.20 (m, 1H) 0.85-0.90 (m, 1H), 0.75-0.79 (m, 1H). LCMS: 96.82%, m/z=536.9 (M−1). HPLC: 94.75%

reactant | BCl3 | 1M | B(Cl)(Cl)Cl | BCl3
reactant | 2-benzyloxymethyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide | 0.2388 mmol, 0.150 g | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2C(C2)COCC2=CC=CC=C2)NC2=C(C=C(C=C2)I)F)F | C25H20F3IN2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 0.4777 mmol, 0.477 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxymethyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide | 0.070 g, 55% yield | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2C(C2)CO)NC2=C(C=C(C=C2)I)F)F | C18H14F3IN2O4S
